US04190662
EXAMPLE IV--2,6-Dimethoxy-4-(dichloromethyl)pyridine
A solution was prepared by dissolving 19.63 grams (0.087 mole) of stannous chloride, dihydrate in 100 ml of acetone. To this mixture was added 7.3 ml of concentrated hydrochloric acid. The mixture was stirred for ~10 minutes. To this mixture was added a solution prepared by dissolving 12.8 grams (0.05 mole) of 2,6-dimethoxy-4-(trichloromethyl)pyridine in 40 ml of acetone at 30° C. The mixture was heated to reflux (60° C.) and refluxed for ~31/2 hours. The reaction mixture was cooled to ~15° C. and the acetone was removed at this temperature. The residual material was mixed with ~250 ml of water and raised to a pH of ~12 with ~20-30 ml of a 50 percent sodium hydroxide solution. The mixture was extracted twice with 250 ml portions of warm (60°-100° C.) petroleum ether and the petroleum ether extract washed twice with water. The petroleum ether extract was dried over sodium sulfate, filtered and the ether removed by evaporation. The desired 2,6-dimethoxy-4-(dichloromethyl)pyridine product was recovered from the residue by crystallization from hexane. The product melted at 59°-62° C. and was recovered in a yield of 7.3 grams (65.8 percent of theoretical). Upon analysis, the product was found to have carbon, hydrogen, nitrogen and chlorine contents of 43.44, 4.08, 6.32 and 31.68 percent, respectively, as compared to the theoretical contents of 43.26, 4.08, 6.30 and 31.93 percent, respectively, as calculated for the above-named compound. The structure of the compounds was confirmed by NMR.

reactant | hydrochloric acid | 7.3 ml | Cl | ClH
reactant | 2,6-dimethoxy-4-(trichloromethyl)pyridine | 0.05 mole, 12.8 grams | COC1=NC(=CC(=C1)C(Cl)(Cl)Cl)OC | C8H8Cl3NO2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 2,6-Dimethoxy-4-(dichloromethyl)pyridine | COC1=NC(=CC(=C1)C(Cl)Cl)OC | C8H9Cl2NO2
